*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF500ARA680MHA0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF500ARA680MHA0G_20deg-C 1 2

C1 4 2 4.73e-05
C2 5 2 9.53e-06
C3 6 2 5.12e-06
R1 3 4 1.10e-02
R2 4 5 1.43e-01
R3 5 6 3.24e+00
L1 1 3 3.70e-09

.ENDS
*$
